US06239147B1
To a stirred solution of 6-Methoxy-1-methyl-1-trifluoromethylisochroman (71 g, 0.29 mol) in acetic acid (600 mL) was added aqueous 48% HBr (300 mL) and the mixture was stirred at 130° C. for 13 hr. After removing acetic acid in vacuo, the reaction mixture was treated with aqueous NaOH (8 M) until the pH became 5-6. The resultant solution was extracted with ethyl acetate (400 mL×2) and the combined ethyl acetate extracts were washed with brine(100 mL), dried over MgSO4, and concentrated in vacuo. Flash chromatography (Silica-gel, 15×20 cm, 17% ethyl acetate/hexane) afforded 6-hydroxy-1-methyl-1-trifluoromethylisochroman (67 g, 100%) as a colorless oil. 1H-NMR(CDCl3): 7.22 (d, J=9.1 Hz, 1H), 6.73 (dd, J=9.1, 2.6 Hz, 1H), 6.63 (d, J=2.6 Hz, 1H), 5.00 (s, 1H, 4.17-4.07 (m, 1H), 3.90 (dt, J=11, 5.8 Hz, 1H), 2.84-2.78 (m, 2H), 1.64 (s, 3H).

reactant | 6-Methoxy-1-methyl-1-trifluoromethylisochroman | 0.29 mol, 71 g | COC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C12H13F3O2
reactant | HBr | 300 mL | Br | BrH
solvent | acetic acid | 600 mL | C(C)(=O)O | C2H4O2
product | 6-hydroxy-1-methyl-1-trifluoromethylisochroman | 67 g, 100% | OC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C11H11F3O2
